US07842840B2
595 g (5.89 moles) of triethylamine are added dropwise in 30 minutes to a suspension of 500 g (2.87 moles) of 2-hydroxy-1,4-naphthoquinone (lawsone) in 2200 ml of ethyl acetate, cooled to +5° C., maintaining the temperature below +10° C. At the end of the dripping a dark red solution is obtained. The solution is kept at +5-10° C. for 30 minutes. 550 g (5.39 moles) of acetic anhydride are added dropwise in 30 minutes, maintaining the temperature between +5 and +10° C. At the end of the dripping, the mixture is left under agitation at +5° C. for 4 hours. The solid is filtered and washed with a mixture of 250 ml of ethyl acetate and 250 ml of hexane pre-cooled to +5° C. The damp product is dried at +40° C. at reduced pressure for 6 hours providing 496 g (yield 80%) of 2-acetoxy-1,4-naphthoquinone (acetyl-lawsone) as a yellow solid with melting point −131°-134° C.

reactant | triethylamine | 5.89 moles, 595 g | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-1,4-naphthoquinone | 2.87 moles, 500 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | acetic anhydride | 5.39 moles, 550 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 2200 ml | C(C)(=O)OCC | C4H8O2
product | 2-acetoxy-1,4-naphthoquinone | 496 g, yield 80% | C(C)(=O)OC=1C(C2=CC=CC=C2C(C1)=O)=O | C12H8O4
